.SUBCKT sg13g2_dlygate4sd_4 X A VDD VSS
*.PININFO A:I X:O VDD:B VSS:B
MP3 X net3 VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4
MP2 net3 net2 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MP1 net2 net1 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MP0 net1 A VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MN3 X net3 VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4
MN2 net3 net2 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MN1 net2 net1 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MN0 net1 A VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
.ENDS
